US04291168
(6,7-Dibromo-1-oxo-2-phenyl-2-propargyl-5-indanyloxy)acetic Acid
Desilylation and hydrolysis of ethyl [6,7-dibromo-1-oxo-2-phenyl-2-(3-(trimethylsilyl)-2-propynyl)-5-indanyloxy]acetate with sodium hydroxide in ethanol according to the procedure of Example 1, STEP (c), affords the title comound.

reactant | ethyl [6,7-dibromo-1-oxo-2-phenyl-2-(3-(trimethylsilyl)-2-propynyl)-5-indanyloxy]acetate | BrC1=C(C=C2CC(C(C2=C1Br)=O)(CC#C[Si](C)(C)C)C1=CC=CC=C1)OCC(=O)OCC | C25H26Br2O4Si
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | (6,7-Dibromo-1-oxo-2-phenyl-2-propargyl-5-indanyloxy)acetic Acid | BrC1=C(C=C2CC(C(C2=C1Br)=O)(CC#C)C1=CC=CC=C1)OCC(=O)O | C20H14Br2O4
